US09387204B2
Step1: methyl 4-(phenylacetyl)benzoate
33 g methyl-4-(1-hydroxy-2-phenylethyl)benzoate (prepared as described by Berk et al.; J. Org. Chem. 1988, 53, 5791) is dissolved in 200 mL of dichloromethane. The solution is cooled to 0-10° C. To this is added DMSO (10 eq) and triethylamine (1.5 eq) followed by addition of 1.5 eq of pyridine-sulphur trioxide-complex. The reaction is stirred overnight at RT 200 ml of water is added. Then ethyl acetate is added and the organic layer is separated, dried, and concentrated to obtain the crude compound. It is purified by column chromatography to obtain the desired compound.

reactant | methyl-4-(1-hydroxy-2-phenylethyl)benzoate | 33 g | COC(C1=CC=C(C=C1)C(CC1=CC=CC=C1)O)=O | C16H16O3
reactant | DMSO | 10 eq | CS(=O)C | C2H6OS
reactant | triethylamine | 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | pyridine sulphur trioxide | 1.5 eq | N1=CC=CC=C1.S(=O)(=O)=O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
product | methyl 4-(phenylacetyl)benzoate | C1(=CC=CC=C1)CC(=O)C1=CC=C(C(=O)OC)C=C1 | C16H14O3
